US04777172
Thionyl chloride (4.5 ml) in chloroform (30 ml) was added dropwise to a stirred solution of 4-hydroxymethyl-5-methyl-6-piperidinopyrimidine (4.24 g) in chloroform (30 ml) cooled in an ice-salt bath. The mixture was allowed to warm to room temperature and stirred for a further 22 hours. The solution was stripped to a residual glass which was triturated with diethyl ether to give 4-chloromethyl-5-methyl-6-piperidino-pyrimidine hydrochloride, 5.24 g, m.p. 182°-184°.

reactant | Thionyl chloride | 4.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxymethyl-5-methyl-6-piperidinopyrimidine | 4.24 g | OCC1=NC=NC(=C1C)N1CCCCC1 | C11H17N3O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloromethyl-5-methyl-6-piperidino-pyrimidine hydrochloride | Cl.ClCC1=NC=NC(=C1C)N1CCCCC1 | InChI=1S/C11H16ClN3.ClH/c1-9-10(7-12)13-8-14-11(9)15-5-3-2-4-6-15;/h8H,2-7H2,1H3;1H
